US07589204B2
A suspension of 5% Pd on carbon in a solution of 1H-indene-3-carbonitrile in EtOH (200 ml) was placed under an atmosphere of hydrogen with vigorous stirring overnight. After removal of excess hydrogen from the reaction the solution as filtered through celite and concentrated to an oil. The resulting oil was re-dissolved in EtOH and filtered a second time to remove the remaining carbon and catalyst. Evaporation of solvent afforded 12.0108 g of 1-indanecarbonitrile (95% yield) as an oil.

reactant | 1H-indene-3-carbonitrile | C1C=C(C2=CC=CC=C12)C#N | C10H7N
solvent | EtOH | 200 ml | CCO | C2H6O
catalyst | Pd on carbon | [Pd] | Pd
product | 1-indanecarbonitrile | 12.0108 g, 95% yield | C1(CCC2=CC=CC=C12)C#N | C10H9N
